US09375010B2
To a solution of (2Z)-2-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}-N-hydroxy-N-methyl-2-phenylethanimidamide (1.8 g, 4.87 mmol, 1 eq.) in acetonitrile (120 ml), was added 1,1′-carbonyldiimidazole (1.58 g, 9.75 mmol, 2 eq.). After stirring at 80° C. for 1 hour, the reaction was quenched by addition of water (100 ml) and extracted with EtOAc (2×100 ml). The organics were combined, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give 3-[(Z)-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one (2 g, 100% yield).

reactant | (2Z)-2-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}-N-hydroxy-N-methyl-2-phenylethanimidamide | 4.87 mmol, 1.8 g, 1 eq. | BrC=1SC=C(N1)CO\N=C(/C(N(C)O)=N)\C1=CC=CC=C1 | C13H13BrN4O2S
reactant | 1,1′-carbonyldiimidazole | 9.75 mmol, 1.58 g, 2 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 3-[(Z)-{[(2-bromo-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one | 2 g, 100% yield | BrC=1SC=C(N1)CO\N=C(/C=1N(OC(N1)=O)C)\C1=CC=CC=C1 | C14H11BrN4O3S
